US07714126B2
With a procedure similar to example 50 above, 2-(2-bromo-phenyl)-4-propyl-oxazole-5-carboxylic acid [6-(cyclopropyl-methyl-amino)-pyridin-3-yl]-amide was prepared from 2-(2-bromo-phenyl)-4-propyl-oxazole-5-carboxylic acid 2,5-dioxo-pyrrolidin-1-yl ester and N2-cyclopropyl-N2-methyl-pyridine-2,5-diamine. LCMS calcd for C22H23BrN4O2 (m/e) 455, obsd 456 (M+H).

reactant | 2-(2-bromo-phenyl)-4-propyl-oxazole-5-carboxylic acid 2,5-dioxo-pyrrolidin-1-yl ester | O=C1N(C(CC1)=O)OC(=O)C1=C(N=C(O1)C1=C(C=CC=C1)Br)CCC | C17H15BrN2O5
reactant | N2-cyclopropyl-N2-methyl-pyridine-2,5-diamine | C1(CC1)N(C1=NC=C(C=C1)N)C | C9H13N3
product | 2-(2-bromo-phenyl)-4-propyl-oxazole-5-carboxylic acid [6-(cyclopropyl-methyl-amino)-pyridin-3-yl]-amide | C1(CC1)N(C1=CC=C(C=N1)NC(=O)C1=C(N=C(O1)C1=C(C=CC=C1)Br)CCC)C | C22H23BrN4O2
